US04107307
8-Ethyl-6-phenyl-imidazo[1,5-d]-as-triazine-4(3H)-thione
The general procedure of Example 62 is repeated but replacing the 3-[(5-methyl-2-phenyl-4-imidazolyl)methylene]-dithiocarbazic acid methyl ester employed in that example with 3-[(5-ethyl-2-phenyl-4-imidazolyl)methylene]dithiocarbazic acid methyl ester.

reactant | 3-[(5-methyl-2-phenyl-4-imidazolyl)methylene]-dithiocarbazic acid methyl ester | CSC(NN=CC=1N=C(NC1C)C1=CC=CC=C1)=S | C13H14N4S2
reactant | 3-[(5-ethyl-2-phenyl-4-imidazolyl)methylene]dithiocarbazic acid methyl ester | CSC(NN=CC=1N=C(NC1CC)C1=CC=CC=C1)=S | C14H16N4S2
product | 8-Ethyl-6-phenyl-imidazo[1,5-d]-as-triazine-4(3H)-thione | C(C)C=1N=C(N2C(NN=CC21)=S)C2=CC=CC=C2 | C13H12N4S
